US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(4-aminophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole
Purge a suspension of 1-isopropylsulfonyl-2-amino-6-(2-(4-nitrophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole (0.149 g, 0.3 mmol) and 10% palladium on carbon (0.03 mmol) in methanol with hydrogen for 10 minutes and then stir under a hydrogen atmosphere for 6 hours. Filter through a bed of Celite® and concentrate the residue under reduced pressure. Subject the residue to silica gel chromatography, eluting with 4% methanol in dichloromethane to provide the title compound in 28% yield. MS(ES+): m/z=473.0 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(2-(4-nitrophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 0.3 mmol, 0.149 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-])N | C25H22N6O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.03 mmol | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-isopropylsulfonyl-2-amino-6-(2-(4-aminophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 28% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2=CC=C(C=C2)N)N | C25H24N6O2S
